US06645968B2
2-((tert-butoxycarbonyl)amino)-3,3-dimethylbutanoic acid
A stirred solution of racemic tert-butylglycine (2.15 g, 16.4 mmol), di-tert-butyl dicarbonate (4.65 g, 21.3 mmol) in dioxane (30 mL), and water (30 mL) at 5° C. was treated with N-methylmorpholine (2.07 mL, 24.6 mmol). The mixture was allowed to slowly warm to ambient temperature and stirred for 16 hours. The reaction mixture was poured into cold aqueous NaHCO3 solution (50 mL) and extracted with ethyl acetate (3×50 mL). The aqueous layer was acidified to pH 1 (2M HCl) and extracted with ethyl acetate (3×30 mL). The organic fractions were combined, dried (MgSO4), and filtered. Removal of solvent provided 2.47 g of the desired product as a white solid.

reactant | racemic tert-butylglycine | 16.4 mmol, 2.15 g | N[C@@H](C(C)(C)C)C(=O)O | C6H13NO2
reactant | di-tert-butyl dicarbonate | 21.3 mmol, 4.65 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-methylmorpholine | 24.6 mmol, 2.07 mL | CN1CCOCC1 | C5H11NO
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
solvent | water | 30 mL | O | H2O
product | 2-((tert-butoxycarbonyl)amino)-3,3-dimethylbutanoic acid | 2.47 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C(C)(C)C | C11H21NO4
